US08304434B2
Step 7: tert-butyl 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine-1-carboxylate
To a 100 ml round bottom flask was added tert-butyl 4-(1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine-1-carboxylate (5.4 g, 12.8 mmol) and 30 ml tetrahydrofuran. The resulting solution was cooled to −78° C. Sodium bis(trimethylsilyl)amide (NaHMDS) tetrahydrofuran solution (1M, 15.4 ml) was added via a syringe. The reaction mixture turned deep orange-red. It was stirred at −78 C for 5 minutes. MeI (0.96 ml, 15.4 mmol) was then added dropwise with a syringe until reaction mixture turned light yellow. More NaHMDS (1M, 3 ml tetrahydrofuran solution) was added. The reaction mixture was stirred at −78° C. for 5 more minutes and 0.3 ml MeI was added. NH4Cl (60 ml) was added at −78° C. to quench the reaction. The resulting mixture was diluted with 120 ml ether and 60 ml water. The layers were separated, and the organics were dried over sodium sulfate, filtered and concentrated. The residue was purified on silica gel column eluted with 1:4 to 1:2 ethylacetate/hexane to give desired product which was used for the next directly.

reactant | tert-butyl 4-(1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine-1-carboxylate | 12.8 mmol, 5.4 g | FC(C=1C=C(C=CC1)S(=O)(=O)C(C)C1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C19H26F3NO4S
reactant | Sodium bis(trimethylsilyl)amide | 1M, 15.4 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | MeI | 15.4 mmol, 0.96 ml | CI | CH3I
reactant | NaHMDS | 1M, 3 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | MeI | 0.3 ml | CI | CH3I
reactant | NH4Cl | 60 ml | [NH4+].[Cl-]
solvent | ether | 120 ml | CCOCC | C4H10O
solvent | water | 60 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)piperidine-1-carboxylate | CC(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C20H28F3NO4S
